US07812028B2
e) 5-(2-Chloro-phenoxy)-6-(4-chloro-phenyl)-pyrazine-2-carboxylic Acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 36c, using 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide, and chlorophenol (commercially available) as starting materials to give the title compound as a white solid. mp.: 154-155° C., MS (ISP): 458.3, 460.3 (M+H)+.

reactant | 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)Cl | C17H17BrClN3O2
reactant | chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
product | 5-(2-Chloro-phenoxy)-6-(4-chloro-phenyl)-pyrazine-2-carboxylic Acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)OC1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C23H21Cl2N3O3
